US06762320B2
N-[4-(4-Trifluoromethyl-benzyloxy)-phenyl]-malonamide
The title compound is prepared in analogy to example 3 from N-[4-(4-trifluoromethyl-benzyloxy)-phenyl]-malonamic acid methyl ester and ammonium hydroxide. Yield=65%. Colorless solid. MS: m/e=353.1 (M++H).

reactant | N-[4-(4-trifluoromethyl-benzyloxy)-phenyl]-malonamic acid methyl ester | COC(CC(=O)NC1=CC=C(C=C1)OCC1=CC=C(C=C1)C(F)(F)F)=O | C18H16F3NO4
reactant | ammonium hydroxide | [OH-].[NH4+]
product | N-[4-(4-Trifluoromethyl-benzyloxy)-phenyl]-malonamide | Yield=65% | FC(C1=CC=C(COC2=CC=C(C=C2)NC(CC(=O)N)=O)C=C1)(F)F | C17H15F3N2O3
